.title kicad schematic

* u9 net-_u1-pad4_ net-_u4-pad2_ net-_u15-pad1_ d_tristate
* u10 net-_u1-pad5_ net-_u10-pad2_ net-_u10-pad3_ d_tristate
* u11 net-_u1-pad6_ net-_u10-pad2_ net-_u11-pad3_ d_tristate
* u3 net-_u1-pad8_ net-_u3-pad2_ d_inverter
* u1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u17-pad2_ net-_u16-pad2_ net-_u15-pad2_ net-_u14-pad2_ net-_u13-pad2_ net-_u12-pad2_ port
* u2 net-_u1-pad7_ net-_u2-pad2_ d_inverter
* u15 net-_u15-pad1_ net-_u15-pad2_ d_inverter
* u17 net-_u11-pad3_ net-_u17-pad2_ d_inverter
* u16 net-_u10-pad3_ net-_u16-pad2_ d_inverter
* u4 net-_u2-pad2_ net-_u4-pad2_ d_buffer
* u5 net-_u3-pad2_ net-_u10-pad2_ d_buffer
* u8 net-_u1-pad3_ net-_u4-pad2_ net-_u14-pad1_ d_tristate
* u13 net-_u13-pad1_ net-_u13-pad2_ d_inverter
* u12 net-_u12-pad1_ net-_u12-pad2_ d_inverter
* u6 net-_u1-pad1_ net-_u4-pad2_ net-_u12-pad1_ d_tristate
* u7 net-_u1-pad2_ net-_u4-pad2_ net-_u13-pad1_ d_tristate
* u14 net-_u14-pad1_ net-_u14-pad2_ d_inverter
a1 net-_u1-pad4_ net-_u4-pad2_ net-_u15-pad1_ u9
a2 net-_u1-pad5_ net-_u10-pad2_ net-_u10-pad3_ u10
a3 net-_u1-pad6_ net-_u10-pad2_ net-_u11-pad3_ u11
a4 net-_u1-pad8_ net-_u3-pad2_ u3
a5 net-_u1-pad7_ net-_u2-pad2_ u2
a6 net-_u15-pad1_ net-_u15-pad2_ u15
a7 net-_u11-pad3_ net-_u17-pad2_ u17
a8 net-_u10-pad3_ net-_u16-pad2_ u16
a9 net-_u2-pad2_ net-_u4-pad2_ u4
a10 net-_u3-pad2_ net-_u10-pad2_ u5
a11 net-_u1-pad3_ net-_u4-pad2_ net-_u14-pad1_ u8
a12 net-_u13-pad1_ net-_u13-pad2_ u13
a13 net-_u12-pad1_ net-_u12-pad2_ u12
a14 net-_u1-pad1_ net-_u4-pad2_ net-_u12-pad1_ u6
a15 net-_u1-pad2_ net-_u4-pad2_ net-_u13-pad1_ u7
a16 net-_u14-pad1_ net-_u14-pad2_ u14
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u9 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u10 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u11 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u15 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u17 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u4 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u5 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u8 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u13 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u12 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u6 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u7 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
