* C:\FOSSEE\eSim\library\SubcircuitLibrary\IC_LM833\IC_LM833.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 03/14/23 13:41:34

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U2  Net-_Q2-Pad2_ Net-_Q5-Pad2_ Net-_D4-Pad1_ Net-_Q14-Pad2_ Net-_Q17-Pad2_ Net-_C1-Pad2_ Net-_D1-Pad1_ Net-_D8-Pad1_ PORT		
C3  Net-_C3-Pad1_ Net-_C2-Pad2_ 1n		
C2  Net-_C2-Pad1_ Net-_C2-Pad2_ 1n		
R3  Net-_D1-Pad1_ Net-_Q3-Pad3_ 5k		
C1  Net-_C1-Pad1_ Net-_C1-Pad2_ 1n		
R6  Net-_Q11-Pad3_ Net-_C1-Pad2_ 2k		
Q12  Net-_D3-Pad1_ Net-_Q10-Pad3_ Net-_D4-Pad1_ eSim_NPN		
R8  Net-_D4-Pad1_ Net-_Q10-Pad3_ 2k		
Q11  Net-_D4-Pad1_ Net-_C3-Pad1_ Net-_Q11-Pad3_ eSim_NPN		
Q10  Net-_D1-Pad1_ Net-_D3-Pad1_ Net-_Q10-Pad3_ eSim_NPN		
R7  Net-_D3-Pad2_ Net-_Q10-Pad3_ 1k		
D4  Net-_D4-Pad1_ Net-_D3-Pad2_ eSim_Diode		
D3  Net-_D3-Pad1_ Net-_D3-Pad2_ eSim_Diode		
Q9  Net-_D3-Pad2_ Net-_C3-Pad1_ Net-_Q11-Pad3_ eSim_NPN		
Q8  Net-_D3-Pad1_ Net-_D1-Pad2_ Net-_D1-Pad1_ eSim_PNP		
Q6  Net-_C2-Pad1_ Net-_Q11-Pad3_ Net-_C1-Pad2_ eSim_NPN		
R5  Net-_C3-Pad1_ Net-_Q11-Pad3_ 2k		
R4  Net-_Q4-Pad3_ Net-_C1-Pad2_ 5k		
R2  Net-_C1-Pad1_ Net-_C1-Pad2_ 2k		
R1  Net-_Q1-Pad3_ Net-_C1-Pad2_ 5k		
D1  Net-_D1-Pad1_ Net-_D1-Pad2_ eSim_Diode		
Q3  Net-_Q2-Pad3_ Net-_D1-Pad2_ Net-_Q3-Pad3_ eSim_PNP		
D2  Net-_D2-Pad1_ Net-_C1-Pad1_ eSim_Diode		
Q7  Net-_D3-Pad1_ Net-_C2-Pad1_ Net-_C3-Pad1_ eSim_NPN		
Q4  Net-_C2-Pad1_ Net-_D2-Pad1_ Net-_Q4-Pad3_ eSim_NPN		
Q5  Net-_C2-Pad1_ Net-_Q5-Pad2_ Net-_Q2-Pad3_ eSim_PNP		
Q2  Net-_D2-Pad1_ Net-_Q2-Pad2_ Net-_Q2-Pad3_ eSim_PNP		
Q1  Net-_D1-Pad2_ Net-_M1-Pad3_ Net-_Q1-Pad3_ eSim_NPN		
U1  Net-_C1-Pad2_ Net-_M1-Pad3_ zener		
M1  Net-_D1-Pad1_ Net-_C1-Pad2_ Net-_M1-Pad3_ Net-_D1-Pad1_ mosfet_p		
C6  Net-_C6-Pad1_ Net-_C5-Pad2_ 1n		
C5  Net-_C5-Pad1_ Net-_C5-Pad2_ 1n		
R11  Net-_D1-Pad1_ Net-_Q15-Pad3_ 5k		
C4  Net-_C4-Pad1_ Net-_C1-Pad2_ 1n		
R14  Net-_Q18-Pad2_ Net-_C1-Pad2_ 2k		
Q24  Net-_D7-Pad1_ Net-_Q22-Pad3_ Net-_D8-Pad1_ eSim_NPN		
R16  Net-_D8-Pad1_ Net-_Q22-Pad3_ 2k		
Q23  Net-_D8-Pad1_ Net-_C6-Pad1_ Net-_Q18-Pad2_ eSim_NPN		
Q22  Net-_D1-Pad1_ Net-_D7-Pad1_ Net-_Q22-Pad3_ eSim_NPN		
R15  Net-_D7-Pad2_ Net-_Q22-Pad3_ 1k		
D8  Net-_D8-Pad1_ Net-_D7-Pad2_ eSim_Diode		
D7  Net-_D7-Pad1_ Net-_D7-Pad2_ eSim_Diode		
Q21  Net-_D7-Pad2_ Net-_C6-Pad1_ Net-_Q18-Pad2_ eSim_NPN		
Q20  Net-_D7-Pad1_ Net-_D5-Pad2_ Net-_D1-Pad1_ eSim_PNP		
Q18  Net-_C5-Pad1_ Net-_Q18-Pad2_ Net-_C1-Pad2_ eSim_NPN		
R13  Net-_C6-Pad1_ Net-_Q18-Pad2_ 2k		
R12  Net-_Q16-Pad3_ Net-_C1-Pad2_ 5k		
R10  Net-_C4-Pad1_ Net-_C1-Pad2_ 2k		
R9  Net-_Q13-Pad3_ Net-_C1-Pad2_ 5k		
D5  Net-_D1-Pad1_ Net-_D5-Pad2_ eSim_Diode		
Q15  Net-_Q14-Pad3_ Net-_D5-Pad2_ Net-_Q15-Pad3_ eSim_PNP		
D6  Net-_D6-Pad1_ Net-_C4-Pad1_ eSim_Diode		
Q19  Net-_D7-Pad1_ Net-_C5-Pad1_ Net-_C6-Pad1_ eSim_NPN		
Q16  Net-_C5-Pad1_ Net-_D6-Pad1_ Net-_Q16-Pad3_ eSim_NPN		
Q17  Net-_C5-Pad1_ Net-_Q17-Pad2_ Net-_Q14-Pad3_ eSim_PNP		
Q14  Net-_D6-Pad1_ Net-_Q14-Pad2_ Net-_Q14-Pad3_ eSim_PNP		
Q13  Net-_D5-Pad2_ Net-_M2-Pad3_ Net-_Q13-Pad3_ eSim_NPN		
U3  Net-_C1-Pad2_ Net-_M2-Pad3_ zener		
M2  Net-_D1-Pad1_ Net-_C1-Pad2_ Net-_M2-Pad3_ Net-_D1-Pad1_ mosfet_p		

.end
