* Subcircuit IC_LM339
.subckt IC_LM339 net-_d1-pad1_ net-_d4-pad1_ net-_i1-pad2_ net-_q8-pad1_ net-_q3-pad3_ 
* c:\fossee\esim\library\subcircuitlibrary\ic_lm339\ic_lm339.cir
.include NPN.lib
.include PNP.lib
.include D.lib
q1 gnd net-_d1-pad1_ net-_d1-pad2_ Q2N2907A
q2 net-_q2-pad1_ net-_d1-pad2_ net-_d2-pad1_ Q2N2907A
q5 net-_q4-pad1_ net-_d3-pad2_ net-_d2-pad1_ Q2N2907A
q6 gnd net-_d4-pad1_ net-_d3-pad2_ Q2N2907A
q3 net-_q2-pad1_ net-_q2-pad1_ net-_q3-pad3_ Q2N2222
q4 net-_q4-pad1_ net-_q2-pad1_ net-_q3-pad3_ Q2N2222
q7 net-_i2-pad1_ net-_q4-pad1_ net-_q3-pad3_ Q2N2222
q8 net-_q8-pad1_ net-_i2-pad1_ net-_q3-pad3_ Q2N2222
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
d2 net-_d2-pad1_ net-_d1-pad2_ 1N4148
d3 net-_d2-pad1_ net-_d3-pad2_ 1N4148
d4 net-_d4-pad1_ net-_d3-pad2_ 1N4148
i1  net-_d2-pad1_ net-_i1-pad2_ 80u
i2  net-_i2-pad1_ net-_i1-pad2_ 80u
* Control Statements

.ends IC_LM339