* Subcircuit IC_LM833
.subckt IC_LM833 net-_q2-pad2_ net-_q5-pad2_ net-_d4-pad1_ net-_q14-pad2_ net-_q17-pad2_ net-_c1-pad2_ net-_d1-pad1_ net-_d8-pad1_ 
* c:\fossee\esim\library\subcircuitlibrary\ic_lm833\ic_lm833.cir
.include PMOS-180nm.lib
.include D.lib
.include NPN.lib
.include PNP.lib
c3  net-_c3-pad1_ net-_c2-pad2_ 1n
c2  net-_c2-pad1_ net-_c2-pad2_ 1n
r3  net-_d1-pad1_ net-_q3-pad3_ 5k
c1  net-_c1-pad1_ net-_c1-pad2_ 1n
r6  net-_q11-pad3_ net-_c1-pad2_ 2k
q12 net-_d3-pad1_ net-_q10-pad3_ net-_d4-pad1_ Q2N2222
r8  net-_d4-pad1_ net-_q10-pad3_ 2k
q11 net-_d4-pad1_ net-_c3-pad1_ net-_q11-pad3_ Q2N2222
q10 net-_d1-pad1_ net-_d3-pad1_ net-_q10-pad3_ Q2N2222
r7  net-_d3-pad2_ net-_q10-pad3_ 1k
d4 net-_d4-pad1_ net-_d3-pad2_ 1N4148
d3 net-_d3-pad1_ net-_d3-pad2_ 1N4148
q9 net-_d3-pad2_ net-_c3-pad1_ net-_q11-pad3_ Q2N2222
q8 net-_d3-pad1_ net-_d1-pad2_ net-_d1-pad1_ Q2N2907A
q6 net-_c2-pad1_ net-_q11-pad3_ net-_c1-pad2_ Q2N2222
r5  net-_c3-pad1_ net-_q11-pad3_ 2k
r4  net-_q4-pad3_ net-_c1-pad2_ 5k
r2  net-_c1-pad1_ net-_c1-pad2_ 2k
r1  net-_q1-pad3_ net-_c1-pad2_ 5k
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
q3 net-_q2-pad3_ net-_d1-pad2_ net-_q3-pad3_ Q2N2907A
d2 net-_d2-pad1_ net-_c1-pad1_ 1N4148
q7 net-_d3-pad1_ net-_c2-pad1_ net-_c3-pad1_ Q2N2222
q4 net-_c2-pad1_ net-_d2-pad1_ net-_q4-pad3_ Q2N2222
q5 net-_c2-pad1_ net-_q5-pad2_ net-_q2-pad3_ Q2N2907A
q2 net-_d2-pad1_ net-_q2-pad2_ net-_q2-pad3_ Q2N2907A
q1 net-_d1-pad2_ net-_m1-pad3_ net-_q1-pad3_ Q2N2222
* u1  net-_c1-pad2_ net-_m1-pad3_ zener
m1 net-_d1-pad1_ net-_c1-pad2_ net-_m1-pad3_ net-_d1-pad1_ CMOSP W=100u L=100u M=1
c6  net-_c6-pad1_ net-_c5-pad2_ 1n
c5  net-_c5-pad1_ net-_c5-pad2_ 1n
r11  net-_d1-pad1_ net-_q15-pad3_ 5k
c4  net-_c4-pad1_ net-_c1-pad2_ 1n
r14  net-_q18-pad2_ net-_c1-pad2_ 2k
q24 net-_d7-pad1_ net-_q22-pad3_ net-_d8-pad1_ Q2N2222
r16  net-_d8-pad1_ net-_q22-pad3_ 2k
q23 net-_d8-pad1_ net-_c6-pad1_ net-_q18-pad2_ Q2N2222
q22 net-_d1-pad1_ net-_d7-pad1_ net-_q22-pad3_ Q2N2222
r15  net-_d7-pad2_ net-_q22-pad3_ 1k
d8 net-_d8-pad1_ net-_d7-pad2_ 1N4148
d7 net-_d7-pad1_ net-_d7-pad2_ 1N4148
q21 net-_d7-pad2_ net-_c6-pad1_ net-_q18-pad2_ Q2N2222
q20 net-_d7-pad1_ net-_d5-pad2_ net-_d1-pad1_ Q2N2907A
q18 net-_c5-pad1_ net-_q18-pad2_ net-_c1-pad2_ Q2N2222
r13  net-_c6-pad1_ net-_q18-pad2_ 2k
r12  net-_q16-pad3_ net-_c1-pad2_ 5k
r10  net-_c4-pad1_ net-_c1-pad2_ 2k
r9  net-_q13-pad3_ net-_c1-pad2_ 5k
d5 net-_d1-pad1_ net-_d5-pad2_ 1N4148
q15 net-_q14-pad3_ net-_d5-pad2_ net-_q15-pad3_ Q2N2907A
d6 net-_d6-pad1_ net-_c4-pad1_ 1N4148
q19 net-_d7-pad1_ net-_c5-pad1_ net-_c6-pad1_ Q2N2222
q16 net-_c5-pad1_ net-_d6-pad1_ net-_q16-pad3_ Q2N2222
q17 net-_c5-pad1_ net-_q17-pad2_ net-_q14-pad3_ Q2N2907A
q14 net-_d6-pad1_ net-_q14-pad2_ net-_q14-pad3_ Q2N2907A
q13 net-_d5-pad2_ net-_m2-pad3_ net-_q13-pad3_ Q2N2222
* u3  net-_c1-pad2_ net-_m2-pad3_ zener
m2 net-_d1-pad1_ net-_c1-pad2_ net-_m2-pad3_ net-_d1-pad1_ CMOSP W=100u L=100u M=1
a1 net-_c1-pad2_ net-_m1-pad3_ u1
a2 net-_c1-pad2_ net-_m2-pad3_ u3
* Schematic Name:                             zener, NgSpice Name: zener
.model u1 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u3 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Control Statements

.ends IC_LM833